US04616086
Ethyl 4-[2-(piperazin-1-yl)-ethyl]-phenylacetate
n-butyl 4-{2-[1-(2-chlorobenzyl)-piperazin-4-yl]-ethyl}-benzoate from 4-{2-[1-(2-chlorobenzyl)-piperazin-4-yl]-ethyl}-benzoic acid and n-butanol.

reactant | n-butyl 4-{2-[1-(2-chlorobenzyl)-piperazin-4-yl]-ethyl}-benzoate | ClC1=C(CN2CCN(CC2)CCC2=CC=C(C(=O)OCCCC)C=C2)C=CC=C1 | C24H31ClN2O2
reactant | 4-{2-[1-(2-chlorobenzyl)-piperazin-4-yl]-ethyl}-benzoic acid | ClC1=C(CN2CCN(CC2)CCC2=CC=C(C(=O)O)C=C2)C=CC=C1 | C20H23ClN2O2
solvent | n-butanol | C(CCC)O | C4H10O
product | Ethyl 4-[2-(piperazin-1-yl)-ethyl]-phenylacetate | N1(CCNCC1)CCC1=CC=C(C=C1)CC(=O)OCC | C16H24N2O2
